US07851473B2
(5) 4-(4-Phenyl-1,3-thiazol-2-yl)-N-1,2,3-thiadiazol-5-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl 1,2,3-thiadiazol-5-ylcarbamate (190 mg, 0.686 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (153 mg, 0.624 mmol) and diisopropylethylamine (0.217 ml, 1.25 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 days. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 159 mg (68.4%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl 1,2,3-thiadiazol-5-ylcarbamate | 0.686 mmol, 190 mg | S1N=NC=C1NC(OCC(Cl)(Cl)Cl)=O | C5H4Cl3N3O2S
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.624 mmol, 153 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 1.25 mmol, 0.217 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-1,2,3-thiadiazol-5-ylpiperazine-1-carboxamide | 159 mg, 68.4% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=CN=NS1 | C16H16N6OS2
